US09290514B2
Step 6. Methyl 8-(3,5-dimethylisoxazol-4-yl)-4-nitroso-3-phenyl-3,4-dihydro-2H-1,4-benzoxazine-5-carboxylate
A suspension of methyl 8-(3,5-dimethylisoxazol-4-yl)-3-phenyl-3,4-dihydro-2H-1,4-benzoxazine-5-carboxylate (0.230 g, 0.631 mmol) in ethyl acetate (6.13 mL) was cooled to 0° C. and treated with 6.0 M hydrogen chloride in water (0.789 mL, 4.73 mmol) and water (0.460 mL) followed by sodium nitrite (0.0871 g, 1.26 mmol) in water (0.690 mL) dropwise. The reaction mixture was stirred at 0° C. for 15 min, the ice bath was removed, and stirred for 30 min which gave a biphasic solution. After another 30 min a suspension was present. The reaction mixture was diluted with EtOAc (40 mL) and water (20 mL). The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated to give a crude tan solid. Purification by flash column chromatography (100% hexanes to 50% EtOAc/hexanes) gave the desired product (0.228 g, 92%) as a yellow solid. LCMS calculated for C21H20N2O4 ([M−NO]+H)+: m/z=364.1. found: 364.1.

reactant | methyl 8-(3,5-dimethylisoxazol-4-yl)-3-phenyl-3,4-dihydro-2H-1,4-benzoxazine-5-carboxylate | 0.631 mmol, 0.230 g | CC1=NOC(=C1C=1C=CC(=C2NC(COC21)C2=CC=CC=C2)C(=O)OC)C | C21H20N2O4
reactant | hydrogen chloride | 6.0 M | Cl | ClH
reactant | sodium nitrite | 1.26 mmol, 0.0871 g | N(=O)[O-].[Na+]
solvent | ethyl acetate | 6.13 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 0.460 mL | O | H2O
solvent | water | 0.690 mL | O | H2O
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
solvent | water | 20 mL | O | H2O
solvent | water | 4.73 mmol, 0.789 mL | O | H2O
product | Methyl 8-(3,5-dimethylisoxazol-4-yl)-4-nitroso-3-phenyl-3,4-dihydro-2H-1,4-benzoxazine-5-carboxylate | 0.228 g, 92% | CC1=NOC(=C1C=1C=CC(=C2N(C(COC21)C2=CC=CC=C2)N=O)C(=O)OC)C | C21H19N3O5
